US06734191B2
AMD11077: Preparation of (4-Aminomethyl-3-methoxy-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (hydrobromide salt)
To a solution of (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.386 g, 1.02 mmol) in CH3CN (10 mL) was added N,N-diisopropylethylamine (0.35 mL, 2.00 mmol) followed by of 4-(bromomethyl)-2-methoxybenzonitrile (0.363 g, 1.60 mmol). The resultant mixture was heated to 60° C. for 15 hours then cooled to room temperature. The mixture was concentrated and the residue was partitioned between CH2Cl2 (40 mL) and brine (10 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated. Purification of the crude material by column chromatography on silica gel (20:1 CH2Cl2—CH3OH) followed by radial chromatography on silica gel (2 mm plate, 2:1 hexanes-EtOAc) provided 0.30 g (56%) of a white foam.

reactant | (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 1.02 mmol, 0.386 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | N,N-diisopropylethylamine | 2.00 mmol, 0.35 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(bromomethyl)-2-methoxybenzonitrile | 1.60 mmol, 0.363 g | BrCC1=CC(=C(C#N)C=C1)OC | C9H8BrNO
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (4-Aminomethyl-3-methoxy-benzyl)-(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.30 g, 56% | NCC1=C(C=C(CN(C2CCCC=3C=CC=NC23)CC2=NC3=C(N2)C=CC=C3)C=C1)OC | C26H29N5O
